US06004478
Preparation of 4-(trans-4-(trans-4-n-pentyl-4-silacyclohexyl)cyclohexyl)-1-(3,3 ,3-trifluoro-n-propoxy)benzene
The general procedure of Example 1 was repeated using 1-bromo-4-(t-butyldimethylsiloxy)benzene, 4-(4-n-propyl-4-phenyl-4-silacyclohexyl)cyclohexanone and 1-bromo-3,3,3-trifluoro-n-propane, thereby obtaining the intended compound.

reactant | 1-bromo-4-(t-butyldimethylsiloxy)benzene | BrC1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C12H19BrOSi
reactant | 4-(4-n-propyl-4-phenyl-4-silacyclohexyl)cyclohexanone | C(CC)[Si]1(CCC(CC1)C1CCC(CC1)=O)C1=CC=CC=C1 | C20H30OSi
reactant | 1-bromo-3,3,3-trifluoro-n-propane | BrCCC(F)(F)F | C3H4BrF3
product | 4-(trans-4-(trans-4-n-pentyl-4-silacyclohexyl)cyclohexyl)-1-(3,3 ,3-trifluoro-n-propoxy)benzene | C(CCCC)[Si@@H]1CC[C@H](CC1)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)OCCC(F)(F)F | C25H39F3OSi
